US04802913
Solutions of dimethyl malonate (1.32 g) in dry methanol (5 ml) and 3-phenylbenzyl bromide (2.46 g) in dry methanol (5 ml, hot solution) were added successively to a stirred solution of sodium methoxide [from sodium (0.23 g) and dry methanol (20 ml)]. The resulting mixture was stirred for 2 hours at room temperature and for 2 hours under reflux, then poured into water and extracted with ether. The extracts were washed with water, dried, concentrated and purified by column chromatography using a 1:1 mixture of dichloromethane and 40°-60° C. petrol as eluant to give dimethyl(m-phenylbenzyl)malonate (1.77 g, 59%) as a yellow oil, IR (film): 1 755 and 1 740 cm-1.

reactant | dimethyl malonate | 1.32 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3-phenylbenzyl bromide | 2.46 g | C1(=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11Br
reactant | sodium methoxide | 20 ml, 0.23 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | dimethyl(m-phenylbenzyl)malonate | 1.77 g, 59% | COC(C(C(=O)OC)CC1=CC(=CC=C1)C1=CC=CC=C1)=O | C18H18O4
